US05344843
A solution of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in methanol (75 mL) was treated with N,N-dimethylethylenediamine (0.2 mL) and the mixture was refluxed for 18 hours. The solvents were removed by evaporation and the residue was purified by HPLC (ethyl acetate-methanol-triethylamine; 95:5:2) followed by crystallization from ethyl acetate-hexane to give 0.28 g of N-[2-(dimethylamino)ethyl]-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide as a colorless solid, mp 102°-104° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | N,N-dimethylethylenediamine | 0.2 mL | CN(CCN)C | C4H12N2
solvent | methanol | 75 mL | CO | CH4O
product | N-[2-(dimethylamino)ethyl]-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide | 0.28 g | CN(CCNC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O)C | C24H26N2O4
